US07211587B2
N-{3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-N′-(3-methyl-5-isoxazolyl)urea
3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]aniline (20 mg) was dissolved in chlorobenzene (2 ml) and N,N-diisopropylethylamine (0.2 ml) to prepare a solution. A solution of triphosgene (18 mg) in chlorobenzene (0.5 ml) was then added to the solution, and the mixture was stirred at room temperature for 30 min. Next, 3-methyl-5-isoxazolamine (12 mg) was added thereto, and the mixture was further stirred at 110° C. overnight. The reaction solution was developed through diatomaceous earth impregnated with a saturated aqueous sodium hydrogencarbonate solution, followed by extraction with chloroform. The solvent in the extract was removed by distillation. The residue was purified by HPLC using chloroform/methanol for development to give the title compound (5 mg, yield 18%).

reactant | 3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]aniline | 20 mg | ClC=1C=C(N)C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OC | C17H15ClN2O3
reactant | N,N-diisopropylethylamine | 0.2 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | triphosgene | 18 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 3-methyl-5-isoxazolamine | 12 mg | CC1=NOC(=C1)N | C4H6N2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chlorobenzene | 2 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 0.5 ml | ClC1=CC=CC=C1 | C6H5Cl
product | N-{3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-N′-(3-methyl-5-isoxazolyl)urea | 5 mg, yield 18% | ClC=1C=C(C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OC)NC(=O)NC1=CC(=NO1)C | C22H19ClN4O5
